US07960037B2
Synthesis of 2,7-dibromo-9,9-bis(3,6,9-trioxadecyl)fluorene
2,7-dibromofluorene (5.0 g, 15.4 mmol) was dissolved in dried THF solution (30 mL). Sodium hydride (1.0 g, 40 mmol) was added to the THF solution at room temperature and refluxed for 5 hours. 1-Tosyloxy-3,6,9-trioxadecane (11.8 g, 37 mmol) in 20 mL of dry THF was added drop-wise to the refluxed solution. The mixture was allowed to refluxed over night, then cooled down, poured into distill water and extracted with chloroform (2×100 mL). The combined organic solutions were washed with saturated NaCI solution (2×100 mL), distilled water (1×100 mL), dried over MgSO4, and concentrated under reduced pressure. Crude oil was further purified by column chromatography using hexane/ethyl acetate (50/50) as eluant. TLC (ethyl acetate/Hexane=1/1) Rf =0.12. The fraction at Rf=0.12 was collected and concentrated to give 5.7 product in 60% yield. 1H NMR (300 MHz, CDCl3), 2.34(t, 4H), 2.77(t, 4H), 3.10-3.60(m, 22H), 7.40-7.60(m, 6H).

reactant | 2,7-dibromofluorene | 15.4 mmol, 5.0 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | Sodium hydride | 40 mmol, 1.0 g | [H-].[Na+]
reactant | 1-Tosyloxy-3,6,9-trioxadecane | 37 mmol, 11.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOC | C14H22O6S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2,7-dibromo-9,9-bis(3,6,9-trioxadecyl)fluorene | 60% yield | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCOCCOCCOC)CCOCCOCCOC | C27H36Br2O6
